Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
He presents ___ midline pain since eating saltines earlier this
afternoon.  He was evaluated at the ___ ED yesterday with
similar complaints.  His pain improves with Ativan and morphine
and is exacerbated by eating/drinking.  He has not been eating 
as
a result.  He was worked up with CT and RUQUS, revealing that he
had gastritis. He was started on Carafate and Prilosec, to be
picked up when he left the hospital.  He did not fill his
prescriptions and came back to the ED requesting pain 
medication.

 
Past Medical History:
Gastritis
GERD
Bipolar disorder
Mild atopic dermatitis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
GENERAL: lying in bed comfortably    
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: clear to auscultation bilaterally, no crackles, wheezes, 
or
rhonchi  
ABD: soft, ND, TTP of epigastric region 
EXT: Warm, well perfused, no lower extremity edema  
NEURO: Alert, oriented, face symmetric, moving all extremities 

 
Pertinent Results:
___ 08:50AM BLOOD WBC-5.6 RBC-4.87 Hgb-15.4 Hct-44.6 MCV-92 
MCH-31.6 MCHC-34.5 RDW-12.1 RDWSD-40.4 Plt ___
___ 11:54PM BLOOD Neuts-80.9* Lymphs-13.0* Monos-5.7 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.25 AbsLymp-0.68* 
AbsMono-0.30 AbsEos-0.00* AbsBaso-0.01
___ 08:50AM BLOOD Glucose-113* UreaN-11 Creat-1.3* Na-142 
K-3.9 Cl-98 HCO3-26 AnGap-18
___ 08:50AM BLOOD ALT-43* AST-45* LD(LDH)-234 AlkPhos-74 
TotBili-0.6
___ 11:54PM BLOOD ALT-43* AST-83* AlkPhos-57 TotBili-0.5
___ 08:50AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.___ with PMH gastritis, GERD, bipolar disorder presenting with 
abdominal pain. 

ACUTE ISSUES:
===============
#ABDOMINAL PAIN 
Patient evaluated ___ at ___ ED and found to have 
gastritis. CTAP and abdominal ultrasound were negative for other 
etiologies. Pt did not fill his Carafate or Prilosec 
prescriptions after leaving the ED and returns due to ongoing 
pain. He has received Haldol in
addition to Carafate and Prilosec for his pain symptoms. He was 
admitted to the hospital and treated with PPI, H2 blocker, 
sucralfate, and magic mouthwash. It was also felt that some 
component of his pain was due to cannabinoid hyperemesis 
syndrome as patient reports nausea, vomiting, and improvement of 
all his symptoms with hot showers in the setting of frequent 
marijuana use. He was treated with capsaicin cream for this. He 
had improvement in his symptoms and was able to tolerate oral 
intake at the time of discharge. 

#TRANSAMINITIS
Mild hepatocellular transaminitis, uncertain etiology. ALT 
improving but AST slightly elevated since last admission. 
Etiology uncertain, although may be due to oxcarbazepine dosing. 
LFTs were trended and were improving by the time of discharge. 

#ELEVATED CREATININE
Cr 1.3 on admission, baseline appears to be 1.1-1.2. Felt to be 
pre-renal in etiology in the setting of pain, poor PO intake. He 
was treated with IV fluids.

#ELEVATED BLOOD PRESSURE
Patient was found to have elevated blood pressure this 
admission, as high as 160s systolic. He carries no formal 
diagnosis as an outpatient. This should be further investigated 
after discharge.

CHRONIC ISSUES:
===================
#BIPOLAR DISORDER
His mood was stable throughout the duration of this admission. 
He was continued on his home oxcarbazepine.

TRANSITIONAL ISSUES:
===================
- patient was working to apply for ___ at the time of 
discharge. Once he does this, please provide him with a referral 
to a gastroenterologist.

- patient unable to purchase medications at the time of 
discharge due to lack of insurance (planning to apply for 
___ as above). He stated that he has omeprazole, Maalox, 
and oxcarbazepime at home. He will purchase Carafate and 
Capsaicin cream over the counter as needed. 

- f/u patient's blood pressure as an outpatient. If BP 
persistently elevated, consider starting an antihypertensive 
medication.

- consider H. pylori testing as an outpatient as a potential 
cause of his abdominal pain

- please help patient follow up with gastroenterology as an 
outpatient

- f/u LFTs which were downtrending but remained elevated at the 
time of discharge. ___ be due to oxcarbazepine dosing. 

- f/u slight creatinine elevation, thought to be related to 
dehydration on this admission. Ensure that it is downtrending.
---D/C Creatinine = 1.3
 
Medications on Admission:
Oxcarbazepine 150 mg BID

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*0 
3.  Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram 1 tablet(s) by mouth four time 
a day Disp #*120 Tablet Refills:*0 
4.  OXcarbazepine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with abdominal pain. 

You underwent several tests including imaging of the abdomen and 
bloodwork. It was felt that your abdominal pain was due to 
inflammation of your stomach called gastritis. You were treated 
with medications to help manage your symptoms. 

After you leave the hospital, it is important that you:
-take all your medications as prescribed
-follow-up with your PCP
-___ with gastroenterology for a repeat endoscopy

It was a pleasure taking care of you!

Sincerely,
Your inpatient medicine team
 
Followup Instructions:
___